US06924374B2
1-(4-Fluoro-3-trifluoromethyl-phenyl)-4-propyl-piperazine
Beginning with 1-(4-fluoro-3-trifluoromethyl-phenyl)-piperazine and 1-bromopropane, the title compound was recovered by the procedure described in Example 2. m.p. 238° C. (HCl); MS m/z (rel. intensity, 70 eV) 290 (M+, 17), 261 (70), 190 (34), 70 (bp), 56 (44).

reactant | 1-(4-fluoro-3-trifluoromethyl-phenyl)-piperazine | FC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12F4N2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 1-(4-Fluoro-3-trifluoromethyl-phenyl)-4-propyl-piperazine | FC1=C(C=C(C=C1)N1CCN(CC1)CCC)C(F)(F)F | C14H18F4N2
